US06720320B2
(S)-4-glycidyloxy-2-(1-methylimidazol-2-yl)benzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 4-hydroxy-2-(1-methylimidazol-2-yl)benzo(b)furan (1.10 g), (S)-glycidyl nosylate (1.33 g) and potassium carbonate (2.13 g), a crude product of the title compound was quantitatively obtained as a pale-yellow oil.

reactant | 4-hydroxy-2-(1-methylimidazol-2-yl)benzo(b)furan | 1.10 g | OC1=CC=CC=2OC(=CC21)C=2N(C=CN2)C | C12H10N2O2
reactant | (S)-glycidyl nosylate | 1.33 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 2.13 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-glycidyloxy-2-(1-methylimidazol-2-yl)benzo(b)furan | C([C@@H]1CO1)OC1=CC=CC=2OC(=CC21)C=2N(C=CN2)C | C15H14N2O3
